US04714492
6.0 g of 1,6-dimethyl-2-phenyl-4-oxonicotinic acid is suspended in 200 ml of methanol. 1.0 g of sodium hydroxide is added. As soon as the acid dissolves a solution of 5.52 g of Br2 in 50 ml of methanol is slowly added with stirring. The pH of the reaction mixture is maintained at 8-9 by the addition of extra sodium hydroxide as required. A precipitate of 3,5-dibromo-1,6-dimethyl-2-phenyl-pyrid-4-one forms. This material is collected by filtration and discarded. Acidification of the clear filtrate yields 3.4 g of 5-bromo-1,6-dimethyl-2-phenyl-4-oxonicotinic acid as a white solid. mp=252°-253° C. (acetonitrile).

reactant | 1,6-dimethyl-2-phenyl-4-oxonicotinic acid | 6.0 g | CN1C(=C(C(=O)O)C(C=C1C)=O)C1=CC=CC=C1 | C14H13NO3
reactant | sodium hydroxide | 1.0 g | [OH-].[Na+]
reactant | Br2 | 5.52 g | BrBr | Br2
reactant | 3,5-dibromo-1,6-dimethyl-2-phenyl-pyrid-4-one | BrC1=C(N(C(=C(C1=O)Br)C)C)C1=CC=CC=C1 | C13H11Br2NO
solvent | methanol | 200 ml | CO | CH4O
solvent | methanol | 50 ml | CO | CH4O
product | 5-bromo-1,6-dimethyl-2-phenyl-4-oxonicotinic acid | 3.4 g | BrC1=C(N(C(=C(C(=O)O)C1=O)C1=CC=CC=C1)C)C | C14H12BrNO3
